US06498165B1
2-[2-Chloro-6-methylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-chloro-6-methylbenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (EI): m/e 350.3 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.66 (s, 1H); 8.40 (br s, 1H); 8.21 (s, 1H); 7.87 (d, J=7.6 Hz, 1H); 7.40 (m, 2H); 7.30 (d, J=8.0 Hz, 1H); 7.17 (m, 2H); 6.85 (d, J=5.5 Hz, 1H); 5.56 (br s, 1H); 4.90 (d, J=5.0 Hz, 2H); 2.51 (s, 3H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-chloro-6-methylbenzylamine | ClC1=C(CN)C(=CC=C1)C | C8H10ClN
product | 2-[2-Chloro-6-methylbenzylamino]-4-[benzimidazol-1-yl]pyrimidine | ClC1=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C(=CC=C1)C | C19H16ClN5
